US07304081B2
A mixture of tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate (297.1 mg, 1.0 mmol), pyrrolidine (100.0 μL, 1.2 mmol), sodium tert-pentoxide (154.2 mg, 1.40 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (24.5 mg, 0.030 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (16.6 mg, 0.030 mmol) was deareated under vacuum and then charged with nitrogen. To the mixture was added toluene (2.0 mL). The resulting mixture was heated at 100° C. for overnight. After cooling, the mixture was poured into ice-water and the resulting mixture was extracted with ethyl acetate (4×10 mL) The combined organic phase was washed with water and brine, then dried over Na2SO4, then filtered, and then concentrated under reduced pressure. The residue was purified by flash chromatography with ethyl acetate/heaxane to afford tert-butyl 1-(4-pyrrolidin-1-ylphenyl)cyclopropanecarboxylate.

reactant | tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate | 1.0 mmol, 297.1 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C14H17BrO2
reactant | pyrrolidine | 1.2 mmol, 100.0 μL | N1CCCC1 | C4H9N
reactant | sodium tert-pentoxide | 1.40 mmol, 154.2 mg | CCC(C)(C)[O-].[Na+]
reactant | dichloromethane | 0.030 mmol, 24.5 mg | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.030 mmol, 16.6 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-(4-pyrrolidin-1-ylphenyl)cyclopropanecarboxylate | N1(CCCC1)C1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C18H25NO2
